US08207178B2
Step C: Methyl 4′-(2-(4-cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylate
A degassed solution of methyl 4′-(2-chloro-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylate (180 mg, 0.43 mmol), 4-aminobenzonitrile (105 mg, 0.89 mmol), Pd(OAc)2 (10 mg, 0.044 mmol), BINAP (57 mg, 0.092 mmol), and Cs2CO3 (280 mg, 0.88 mmol) in toluene (2 mL) was heated at 80° C. overnight. The desired product was precipitated with EtOAc (2 mL) and saturated NaHCO3 (2 mL) and the resulting precipitate was collected by filtration (210 mg). NMR (DMSO-d6): δ 10.10 (s, 1H), 8.25 (s, 1H), 8.10 (d, 2H), 7.95 (d, 2H), 7.68 (s, 2H), 7.60 (d, 2H), 7.34 (d, 2H), 3.91 (s, 3H), 3.80 (s, 3H), 2.18 (s, 6H); MS (ESI): m/z 505 (M+1)+.

reactant | methyl 4′-(2-chloro-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylate | 0.43 mmol, 180 mg | ClC1=NC(=C2N=CN(C2=N1)C)OC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OC)C | C22H19ClN4O3
reactant | 4-aminobenzonitrile | 0.89 mmol, 105 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | BINAP | 0.092 mmol, 57 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 0.88 mmol, 280 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.044 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 4′-(2-(4-cyanophenylamino)-9-methyl-9H-purin-6-yloxy)-3′,5′-dimethylbiphenyl-4-carboxylate | C(#N)C1=CC=C(C=C1)NC1=NC(=C2N=CN(C2=N1)C)OC1=C(C=C(C=C1C)C1=CC=C(C=C1)C(=O)OC)C | C29H24N6O3
